US06974831B2
Preparation of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid.
A solution of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester (345 mg, 0.787 mmol) in tetrahydrofuran (20 mL) and methanol (20 mL) was treated with 1 M aqueous lithium hydroxide solution (25 mL) at room temperature for 19 h. The mixture was diluted with water and methanol and filtered. The filtrate was concentrated in vacuo and the residue dissolved in water and acidified with concentrated hydrochloric acid. The resulting precipitate was collected via vacuum filtration, washed with water, and air-dried to provide 165 mg (50%) of the title compound as a yellow solid. Recrystallization (methanol/water) provided an analytical sample as a yellow green solid: mp 246-249° C. (dec). 1H NMR (DMSO-d6) δ 12.94 (bs, 1H), 7.73 (bs, 1H), 7.44 (bs, 1H), 7.33 (m, 2H), 7.11 (t, J=7.6 Hz, 1H), 6.48 (s, 1H), 6.37 (t, J=7.6 Hz, 1H), 5.59 (s, 2H), 4.63 (s, 2H), 2.92 (t, J=7.3.Hz, 2H), 2.83 (t, J=7.3 Hz, 2H), 2.44 (s, 3H), 1.97 (quintet, J=7.3 Hz, 2H); MS ES+ m/e 425 (p+1); IR (KBr, cm−1) 3450, 1619, 1225.

reactant | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 0.787 mmol, 345 mg | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=C(C=CC=C2)F)C)C(C(=O)N)=O)=O | C24H23FN2O5
reactant | lithium hydroxide | 1 M, 25 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
product | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-fluorobenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid | 165 mg, 50% | NC(C(=O)C1=C(N(C2=C3C(=CC(=C12)OCC(=O)O)CCC3)CC3=C(C=CC=C3)F)C)=O | C23H21FN2O5
